US08604029B2
2-Isopropyl-4-nitro-phenylamine (2.5 g, 13.9 mmol) was dissolved in 10% sulfuric acid (25 mL) and to this was added sodium nitrite (1.64 g, 23.8 mmol) in portions over 15 min at 0° C. The diazotized solution was added to boiling water and stirred for 15 min. the mixture was cooled to r.t. and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo to afford 2-isopropyl-4-nitro phenol (2 g, 80%) as a solid.

reactant | 2-Isopropyl-4-nitro-phenylamine | 13.9 mmol, 2.5 g | C(C)(C)C1=C(C=CC(=C1)[N+](=O)[O-])N | C9H12N2O2
reactant | sodium nitrite | 23.8 mmol, 1.64 g | N(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
product | 2-isopropyl-4-nitro phenol | 2 g, 80% | C(C)(C)C1=C(C=CC(=C1)[N+](=O)[O-])O | C9H11NO3
